US09257654B2
[Step 1] Synthesis of 9-[4-(9,10-Diphenyl-2-anthryl)phenyl]-9H-carbazole (abbreviation: 2CzPPA)
In a 100 mL three neck flask were put 2.0 g (4.9 mmol) of 2-bromo-9,10-diphenylanthracene, 1.4 g (4.9 mmol) of 4-(9H-carbazol-9-yl)phenylboronic acid, and 0.15 g (0.50 mmol) of tri(ortho-tolyl)phosphine, and the atmosphere in the flask was replaced with nitrogen. To this mixture were added 15 mL of toluene, 15 mL of ethanol, and 10 mL of an aqueous potassium carbonate solution (2.0 mol/L). This mixture was deaerated while being stirred under reduced pressure. Then, the atmosphere in the flask was replaced with nitrogen. To this mixture was added 23 mg (0.10 mmol) of palladium(1) acetate. This mixture was refluxed at 100° C. for 20 hours. Then, after this mixture was cooled to room temperature, about 50 mL of toluene was added thereto, and the mixture was filtered through a filter paper. The obtained mixture was washed with water, and the aqueous layer was extracted with toluene. The extract solution and the organic layer were combined and washed with a saturated saline solution, and the organic layer was dried with magnesium sulfate. This mixture was gravity filtered. The obtained filtrate was concentrated to give a light yellow solid. This solid was washed with toluene to give the object of the synthesis as 1.5 g of a light yellow powdered solid in a yield of 54%.

reactant | 2-bromo-9,10-diphenylanthracene | 4.9 mmol, 2.0 g | BrC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H17Br
reactant | 4-(9H-carbazol-9-yl)phenylboronic acid | 4.9 mmol, 1.4 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)B(O)O | C18H14BNO2
reactant | tri(ortho-tolyl)phosphine | 0.50 mmol, 0.15 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 2.0 mol/L, 10 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(1) acetate | 0.10 mmol, 23 mg | C(C)(=O)[O-].[Pd+]
solvent | toluene | about 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 9-[4-(9,10-Diphenyl-2-anthryl)phenyl]-9H-carbazole | yield of 54% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C44H29N
